US06518423B1
4-[7-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)purin-6-ylthio]butanoic acid
To 15 ml of a solution of 0.109 g of ethyl 4-[7-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)purin-6-ylthio]butanoate in dichloromethane was added in a nitrogen atmosphere 0.84 ml of a 1 M solution of boron tribromide in dichloromethane and the resulting mixture was heated under reflux for 2 hours. Then the reaction mixture was distributed into dichloromethane and water. The organic layer was extracted and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the obtained residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) and recrystallized from diethyl ether to thereby give 40 mg of the title compound as yellow crystals.

reactant | ethyl 4-[7-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)purin-6-ylthio]butanoate | 0.109 g | COCN1C2=C(SC3=C1C=C(C=C3)CN3C=NC1=NC=NC(=C31)SCCCC(=O)OCC)N=CC=N2 | C24H25N7O3S2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[7-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)purin-6-ylthio]butanoic acid | 40 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CN3C=NC2=NC=NC(=C32)SCCCC(=O)O | C20H17N7O2S2
